US04282373
Preparation of 4-cis 2-carboxy-5-chloro-3-chloromethyl penta-2,4-dienoic acid
Titanium tetrachloride (2.5 ml., 25 mmol) in carbon tetrachloride (7.5 ml) was added to THF (60 ml) at 0° C. Malonic acid (1.0 g., 10 mmol) and trans 1,4-dichlorobut-3-en-2-one (1.4 g., 10 mmol) in THF (10 ml) was added. Pyridine (3.3 ml., 40 mmol) in THF (10 ml) was added dropwise over fifteen minutes at 0° C. The reaction mixture was stirred at room temperature for three hours, diluted with water (50 ml) and extracted with ether (50 ml., 2×25 ml). The extracts were washed with brine, N sodium bicarbonate solution, brine, dried (Na2SO4) and evaporated to give the title product (0.35 g., 12%). δ (CDCl3) 5.00 (2H, s, CH2), 6.91 (1H, d, J 5 Hz, CH=), 8.01 (1H, d, J 5 Hz, CH=), 9.68 (2H, s, --OH). νmax (CHCl3) 1720 cm-1.

reactant | Malonic acid | 10 mmol, 1.0 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | trans 1,4-dichlorobut-3-en-2-one | 10 mmol, 1.4 g | ClCC(\C=C\Cl)=O | C4H4Cl2O
reactant | Pyridine | 40 mmol, 3.3 ml | N1=CC=CC=C1 | C5H5N
solvent | carbon tetrachloride | 7.5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
catalyst | Titanium tetrachloride | 25 mmol, 2.5 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-cis 2-carboxy-5-chloro-3-chloromethyl penta-2,4-dienoic acid | 0.35 g, 12% | C(=O)(O)C(C(=O)O)=C(\C=C/Cl)CCl | C7H6Cl2O4
